US09107411B2
15.0 g (72.3 mmol) of methyl 4-nitro-2-vinylbenzoate in 150 ml of methanol were hydrogenated in an autoclave at 5 bar for 15 hours. The solution was filtered through kieselguhr, the solvent was distilled off under reduced pressure, and the residue was chromatographed using silica gel with cyclohexane/ethyl acetate (ratio 3:1) as the eluent. 2.4 g (24% of theory) of methyl 4-amino-2-ethylbenzoate were obtained.

reactant | methyl 4-nitro-2-vinylbenzoate | 72.3 mmol, 15.0 g | [N+](=O)([O-])C1=CC(=C(C(=O)OC)C=C1)C=C | C10H9NO4
solvent | methanol | 150 ml | CO | CH4O
product | methyl 4-amino-2-ethylbenzoate | 2.4 g, 24% | NC1=CC(=C(C(=O)OC)C=C1)CC | C10H13NO2
